US07196087B2
To a warm solution of (2-bromo-6-nitro-phenyl)-methanol (751 mg, 3.24 mmol), and a catalytic amount of Raney (Ni) in THF/MeOH (10 ml/10 ml) was added H2NNH2 (0.2 ml, 6.37 mmol). With stirring, the solution was heated under reflux for an hour and was allowed to cool to room temperature. The reaction mixture was filtered through celite and washed with ethyl acetate. The concentrated filtrate was purified by flash chromatography to give (2-amino-6-bromo-phenyl)-methanol (549 mg, 84%). MS: 202.1 (M+H)+.

reactant | (2-bromo-6-nitro-phenyl)-methanol | 3.24 mmol, 751 mg | BrC1=C(C(=CC=C1)[N+](=O)[O-])CO | C7H6BrNO3
reactant | H2NNH2 | 6.37 mmol, 0.2 ml | NN | H4N2
solvent | THF MeOH | 10 ml | C1CCOC1.CO
catalyst | Ni | [Ni] | Ni
product | (2-amino-6-bromo-phenyl)-methanol | 549 mg, 84% | NC1=C(C(=CC=C1)Br)CO | C7H8BrNO
